* CMP_RR rail-to-rail comparator demo - AutoHV BiCMOS 180 (5 V)
* The SAME cell resolves correctly with the input common mode near the BOTTOM
* rail (0.3 V) and near the TOP rail (4.7 V) - the rail-to-rail point.
* OUT is HIGH when V(inp) > V(inn).
.include "../../../autohv_bicmos180_case.lib"
.include "cmp_rr.lib"
.param case=0 PROC_ON=0 MM_ON=0
Vdd vdd 0 5

* --- instance 1: common mode near the BOTTOM rail ---
X1 inp1 inn1 out1 vdd 0 ibp_1 vdd CMP_RR IREF=5u FIN=1
Ib1 vdd ibp_1 5u
Vrefl inn1 0 0.3
Vinl  inp1 0 PULSE(0.25 0.35 1u 10n 10n 2u 4u)
CL1 out1 0 1p

* --- instance 2: common mode near the TOP rail ---
X2 inp2 inn2 out2 vdd 0 ibp_2 vdd CMP_RR IREF=5u FIN=1
Ib2 vdd ibp_2 5u
Vrefh inn2 0 4.7
Vinh  inp2 0 PULSE(4.65 4.75 1u 10n 10n 2u 4u)
CL2 out2 0 1p

.control
  tran 2n 5u
  meas tran tpd_lo TRIG v(inp1) VAL=0.3 RISE=1 TARG v(out1) VAL=2.5 RISE=1
  meas tran tpd_hi TRIG v(inp2) VAL=4.7 RISE=1 TARG v(out2) VAL=2.5 RISE=1
.endc
.end
